US04762829
N-(3,7,11,15-Tetramethyl-6,10,14-hexadecatrienoyl)-ethanolamine
The procedure of Example 1 was repeated except that 6.1 g of 3,7,11,15-tetramethyl-6,10,14-hexadecatrienoic acid and 1.8 ml of ethanolamine were used as starting materials. 6.4 g (yield 92%) of the title compound was obtained as a colorless oil.

reactant | 3,7,11,15-tetramethyl-6,10,14-hexadecatrienoic acid | 6.1 g | CC(CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H34O2
reactant | ethanolamine | 1.8 ml | C(O)CN | C2H7NO
product | N-(3,7,11,15-Tetramethyl-6,10,14-hexadecatrienoyl)-ethanolamine | 6.4 g, yield 92% | CC(CC(=O)NCCO)CCC=C(CCC=C(CCC=C(C)C)C)C | C22H39NO2
